US05849736
Part C. 4-[2-(N-t-Butyloxycarbonylpiperidin-4-yl)ethoxy]benzaldoxime
To a solution of 4-[2-(N-t-butyloxycarbonylpiperidin-4-yl)ethoxy]benzaldehyde (3.16 g, 9.48 mmol) in MeOH (20 mL) was added hydroxylamine hydrochloride (1.27 g, 18.3 mmol) and 2M NaOH (7 mL, 14 mmol). The resulting suspension was stirred overnight at room temperature (18 hours). The mixture was brought to pH 4 using 1M HCl, followed by filtration and water wash. The crystals were dried under vacuum over P205, affording 2.88 g (87%); mp: 114.4°-116.1° C.; 1H NMR (300 MHz, CDCl3) δ 8.09 (s, 2H), 7.51 (d, J=8.8 Hz, 2H), 6.89 (d, J=8.8 Hz, 2H), 4.10 (b, 2H), 4.03 (t, J=6.2 Hz 2H), 2.71 (bt, 2H), 1.73 (m, 4H), 1.46 (s, 9H), 1.19 (m, 2H).

reactant | 4-[2-(N-t-butyloxycarbonylpiperidin-4-yl)ethoxy]benzaldehyde | 9.48 mmol, 3.16 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=CC=C(C=O)C=C1 | C19H27NO4
reactant | hydroxylamine hydrochloride | 18.3 mmol, 1.27 g | Cl.NO
reactant | NaOH | 14 mmol, 2M, 7 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[2-(N-t-Butyloxycarbonylpiperidin-4-yl)ethoxy]benzaldoxime | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=CC=C(C=NO)C=C1 | C19H28N2O4
